US07763731B2
4-Methyl-2-nitro-biphenyl
To a solution of commercially available 1-bromo-4-methyl-2-nitro-benzene (0.107 g, 0.49 mmol) in anhydrous toluene (3 mL) was added CsCO3 (0.305 g, 0.94 mmol) followed by phenylboronic acid (0.062 g, 0.49 mmol) and 2,8,9-triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3.]undecane as a 0.1M solution in toluene (0.200 mL, 4 mole %). Nitrogen was bubbled through the resulting suspension for three minutes then palladium acetate (0.0043 g, 4 mole %) was added, the reaction vessel sealed and immersed in an 80° C. oil bath and heated for 22 hours. Subsequent filtration through celite and removal of volatiles under vacuum gave the crude product (0.105 g, 100%), which was sufficiently pure for use as isolated.

reactant | 1-bromo-4-methyl-2-nitro-benzene | 0.49 mmol, 0.107 g | BrC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | phenylboronic acid | 0.49 mmol, 0.062 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | undecane | CCCCCCCCCCC | C11H24
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-2-nitro-biphenyl | 0.105 g, 100% | CC1=CC(=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C13H11NO2
